US07923450B2
b) [4-(2-Chloro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
A suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (69 mg, 0.26 mmol) and of crude 6-bromo-2-(2-chloro-phenyl)-cyclohexanone (79 mg, 0.28 mmol) in ethanol (2 mL) was heated to reflux under an atmosphere of nitrogen for 2 days. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified by reversed preparative HPLC using acetonitril/water (0.1% formic acid) to yield the title compound (55 mg, 46%) as an off-white solid. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.77 (s, 1H), 7.46 (s, 1H), 7.35 (m, 1H), 7.13 (m, 2H), 7.08 (d, 1H), 6.96 (m, 1H), 6.85 (s, 1H), 6.68 (d, 1H), 4.53 (m, 1H), 3.54 (s, 3H), 2.77 (m, 2H), 2.33 (s, 3H), 2.24 (m, 1H), 1.80-1.99 (m, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.26 mmol, 69 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 6-bromo-2-(2-chloro-phenyl)-cyclohexanone | 0.28 mmol, 79 mg | BrC1CCCC(C1=O)C1=C(C=CC=C1)Cl | C12H12BrClO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | [4-(2-Chloro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 55 mg, 46% | ClC1=C(C=CC=C1)C1CCCC2=C1N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C24H23ClN4OS
